* G:\mine\ee18btech11049.asc
XU1 N001 Vout N003 N004 N002 LM741/NS
C1 N001 0 16n
R1 N001 0 10000
C2 P001 N001 16n
R2 N002 P001 10000
V1 0 N004 15
V2 N003 0 15
R3 Vout 0 10000
R4 N002 Vout 23500
D1 N002 Vout D
D2 Vout N002 D
.model D D
.lib C:\Users\bsail\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.02 startup
.lib G:\tejaswini\feedback\codes\ee18btech11047\spice\LM741.MOD
.backanno
.end